US05294734
18.0 g (124.8 mmol) of 4-acetoxypentanal, 11.5 g (140.7 mmol) of dimethylammonium chloride and 11.0 ml (146 mmol) of a 37% solution of formaldehyde are stirred for 1 hour at a bath temperature of 110° C. The reaction mixture is allowed to cool and then extracted three times with CH2Cl2. The combined organic phases are dried over MgSO4, filtered and concentrated by evaporation, giving 18.3 g of 4-acetoxy-2-methylene-pentanal as a colourless oil which is further reacted without purification.

reactant | 4-acetoxypentanal | 124.8 mmol, 18.0 g | C(C)(=O)OC(CCC=O)C | C7H12O3
reactant | dimethylammonium chloride | 140.7 mmol, 11.5 g | [Cl-].C[NH2+]C
reactant | formaldehyde | C=O | CH2O
product | 4-acetoxy-2-methylene-pentanal | 18.3 g | C(C)(=O)OC(CC(C=O)=C)C | C8H12O3
